US08003785B2
A mixture of 0.10 g (0.32 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-20), 0.11 g (0.38 mmole) of 4-amino-3-isopropoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.090 g (0.48 mmole) of p-toluenesulfonic acid monohydrate and 4 mL of isopropanol was heated in a pressure tube at 140 degrees overnight, then cooled and diluted with dichloromethane and saturated sodium carbonate. The mixture was extracted twice with dichloromethane. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 100:0-60:40) gave 0.13 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-isopropoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-180) as a white solid.

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.32 mmole, 0.10 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1 | C13H15ClF2N4O
reactant | 4-amino-3-isopropoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.38 mmole, 0.11 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC(C)C | C16H25N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.48 mmole, 0.090 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | isopropanol | 4 mL | C(C)(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-isopropoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.13 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC(C)C | C29H39F2N7O3
